Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
ERCP with sphincterotomy

 
History of Present Illness:
Mr. ___ is a ___ male with the past medical history of
HTN and nephrolithiasis who presents as a transfer from ___. Patient had an outpatient CT Abd/Pelvis this morning due
to abdominal pain and was found to have a 6x8mm radiopaque
obstructing stone in the CBD. Patient was transferred here for
ERCP. He states that ___ days ago he experienced acute onset LUQ
abdominal pain and lower back pain that was severe and 
associated
with 2 episodes of NBNB emesis several days ago. He also had ___
episodes of loose watery diarrhea per day that have partially
resolved. Patient no longer has abdominal pain, nausea, or
vomiting. Patient has also noticed that his eyes have worsening
yellow discoloration.

Referral Note: conclusion:: 6 x 8 mm faint radiopaque distal
common duct calculus causing biliary obstruction. MRCP may be
helpful for further assessment, depending on clinical factors.
Other nonacute findings as detailed. 

In the ED: 
PE: T 97.6 P 98 BP 155/76 R 16 O2 97% RA
HEENT: NC/AT. PERRL, EOMI. +Scleral and sublingual icterus
Lungs: Clear to auscultation b/l, no wheezes, rales, or rhonchi
CV: +S1/S2, RRR, no murmurs, rubs, or gallops
Abd: Soft, NT/ND. No rebound or guarding. No evidence of
peritoneal signs. No organomegaly

Labs (___):
CBC: WBC 9, Hb 14, Hct 41.2, Plt 304
Chem-7: Na 140, K 3.6, Cl 105, bicarb 16, BUN 34, Cr 1.5, glc 
125
T bili 9.2, Direct bili 6.3, ALT 119, AST 55, ALP 281
Lactate 0.8
Lipase 132

ED Course/MDM:
- UA, UCx, BCx x2
- Famotidine 20 mg IV Q12H ordered for patient's indigestion
- ___: Spoke with ERCP, will admit to ___, add on INR, keep 
NPO
and maintenance fluids 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 
 
Past Medical History:
Gout 
HTN
nephrolithiasis
 
Social History:
___
Family History:
FAMILY HISTORY: Reviewed and found to be not relevant to this
illness/reason for hospitalization.
 
Physical Exam:
ADMISSION EXAM:
VITALS: Afebrile, hypertensive to 180's systolic on arrival,
otherwise vital signs stable(see eFlowsheet)
GENERAL: Alert and in no apparent distress, anxious about
procedure
EYES: +scleral icterus, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: +jaundice, No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

discharge exam:

well appearing, walking halls.
BP slightly elevated at 161/52, HR in ___.
abdomen soft, NT
Skin slightly jaundiced.
 
Pertinent Results:
ENZYMES & BILIRUBIN ALT AST LD(LDH) CK(CPK) AlkPhos Amylase
TotBili DirBili 
___ 07:25    87* 45* 177   256* 65 6.7*   

RENAL & GLUCOSE Glucose UreaN Creat Na K Cl HCO3 AnGap 
___ 07:25    901 26* 1.5* 147* 3.8 112* 18* 17*2 

ERCP on ___:
The scout film was normal.  
•The bile duct was deeply cannulated with the sphincterotome.  
•Contrast was injected and there was brisk flow through the
ducts. Contrast extended to the entire biliary tree. The CBD was
10 mm in diameter.  
•Two filling defects consistent with biliary stones were
identified in the CBD.  
•Opacification of the gallbladder was incomplete.  
•The left and right hepatic ducts and all intrahepatic branches
were normal.  
•A biliary sphincterotomy was made with a sphincterotome.  
•There was no post-sphincterotomy bleeding.  
•The biliary tree was swept with a 9-12mm balloon starting at 
the
bifurcation.  
•Two stones were successfully removed.  
•The CBD and CHD were swept repeatedly until no further stones
were seen.  
•The final occlusion cholangiogram showed no evidence of filling
defects in the CBD.  
•Excellent bile and contrast drainage was seen endoscopically 
and
fluoroscopically.  
•Otherwise normal ercp to third part of the duodenum

discharge labs:

___ 07:00AM BLOOD WBC-5.3 RBC-3.66* Hgb-11.9* Hct-34.3* 
MCV-94 MCH-32.5* MCHC-34.7 RDW-14.7 RDWSD-50.9* Plt ___
___ 07:00AM BLOOD Glucose-98 UreaN-26* Creat-1.5* Na-144 
K-3.8 Cl-110* HCO3-20* AnGap-14
___ 07:00AM BLOOD ALT-69* AST-41* AlkPhos-226* TotBili-5.8*
 
Brief Hospital Course:
___ year old male with past medical history of gout, HTN and 
nephrolithiasis who was admitted to ___ as transfer from ___ 
___ on ___ for ERCP, as he was found to have 6 x 8 mm 
radiopaque obstructing stone in the CBD on an outpatient CT
Abd/Pelvis. 

Choledocholithiasis with biliary obstruction and associated 
jaundice:
He was treated for choledocholithiasis with ERCP on ___ with 
sphincterotomy and removal of stones obstructing CBD. No stent 
placed. He will take cipro 500 mg BID q12h for 5 days (end date 
___. We scheduled surgery follow up for the patient with Dr. 
___ per patient discussion; they will discuss ?CCY
as outpatient. He will need outpatient follow up on ___ to 
recheck labs.

Acute kidney injury:
On presentation to ___, Cr 2.9, which improved with hydration 
and holding of arbb and Lasix.  Restarted ___ at ___, held 
furosemide at ___ pending PCP visit

asymptomatic bradycardia:
tolerated his home atenolol. 

Hypertension:
He was hypertensive, with holding of his home losartan.  He was 
continued on amlodipine.  Restarted losartan at discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO DAILY 
2. Losartan Potassium 100 mg PO DAILY 
3. amLODIPine 10 mg PO DAILY 
4. Furosemide 20 mg PO DAILY 
5. Allopurinol ___ mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q4H:PRN Pain  
2.  Ciprofloxacin HCl 500 mg PO/NG Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice daily 
Disp #*8 Tablet Refills:*0 
3.  Allopurinol ___ mg PO DAILY  
4.  amLODIPine 10 mg PO DAILY  
5.  Atenolol 50 mg PO DAILY  
6.  Losartan Potassium 100 mg PO DAILY  
7. HELD- Furosemide 20 mg PO DAILY  This medication was held. Do 
not restart Furosemide until you see Dr. ___ checks 
your labs

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRINCIPAL: choledocholithiasis
OTHER DIAGNOSES: 
bradycardia, asymptomatic
prerenal ___ - resolved
hypernatremia - resolved
HTN
history of gout
history of nephrolithiasis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Instructions: Dear Mr. ___, 

It was a pleasure to be a part of your care team at ___ 
___.

====================================
Why did you come to the hospital? 
====================================

-You had a blockage in your gall bladder ducts causing you a lot 
of symptoms of abdominal discomfort. You were admitted to 
undergo a procedure to relieve this blockage.

====================================
What happened at the hospital? 
====================================

-You underwent a successful procedure (ERCP) to clear out the 
biliary duct blockage.
-You did have some laboratory abnormalities (kidney test and 
electrolyte tests) that were due to your initial condition, 
which resolved.

==================================================
What needs to happen when you leave the hospital? 
==================================================

-Take your medications every day 
-Please attend all of your doctor appointments, this is 
especially important to help with treating your biliary duct 
obstruction definitively (such as surgery to remove the 
gallbladder).
- go see Dr. ___ on ___ to have your blood checked again.
- ask Dr. ___ there is a surgeon he would like you to see 
locally.

It was a pleasure taking care of you during your stay! 

Sincerely, 

Your ___ team  

 
Followup Instructions:
___